### ISSUE TITLE
`to_additive` doesn't interact with several other attributes.

### ISSUE THREAD

**Issue by kbuzzard** [leanprover-community/mathlib4#950]
Right now, `to_additive` is generating additive declarations which do not inherit other attributes attached to the multiplicative declaration. This is an issue because not all mathlib4 porters are aware of this, so right now some stuff is being incorrectly ported.

Here are examples:

1) `simp`
```lean
import Mathlib.Tactic.ToAdditive
import Mathlib.Init.ZeroOne

-- to_additive doesn't attach `simp`
@[simp, to_additive]
theorem One.foo [One α] [Mul α] (a : α) : (1 : α) * a = 1 := sorry

example [One α] [Mul α] (a : α) : (1 : α) * a = 1 := by simp

#check @Zero.foo -- exists

example [Zero α] [Add α] : (0 : α) + a = 0 := by simp -- fails (note: zero_add doesn't fire because it's not imported)
```

2) `simps` (note that [the docs](https://github.com/leanprover-community/mathlib4/blob/c4c6eb6aee753df16b2a96a3e51d771dbe041d1e/Mathlib/Tactic/Simps/Basic.lean#L236) currently claim that this works, but it doesn't seem to?)
```lean
import Mathlib.Algebra.Hom.Group

-- `simps` doesn't run on additivised declaration
@[to_additive, simps]
def OneHom.id' (M : Type _) [One M] : OneHom M M where
  toFun x := x
  map_one' := rfl

#check OneHom.id'_apply -- exists
#check ZeroHom.id' -- exists
#check ZeroHom.id'_apply -- doesn't exist
```

3) `ext`
```lean
import Mathlib.Algebra.Group.Units

@[ext, to_additive]
theorem Units.ext' [Monoid α] : Function.Injective (fun (u : αˣ) => (u : α))
  | ⟨v, i₁, vi₁, iv₁⟩, ⟨v', i₂, vi₂, iv₂⟩, e => by
    simp only at e; subst v'; congr;
    simpa only [iv₂, vi₁, one_mul, mul_one] using mul_assoc i₂ v i₁

example [Monoid α] (a b : αˣ) : a = b := by
  ext -- does something
  sorry

example [AddMonoid α] (a b : AddUnits α) : a = b := by
  ext -- fails
```

Other attributes currently used with `to_additive` in Mathlib are `norm_cast`, `coe`, `symm` and `trans`. I'm not sure which ones currently interact in the optimal way.

**Comment by fpvandoorn** [comment]
Workaround for (2):
```lean
@[to_additive]
def OneHom.id' (M : Type _) [One M] : OneHom M M where
  toFun x := x
  map_one' := rfl
attribute [simps] OneHom.id'
```
I hoped this was fixed by https://github.com/leanprover/lean4/commit/a999015371adcc5516f2994b95251f312e3c820c, but apparently not.

**Comment by fpvandoorn** [comment]
Oh, we haven't set the `applicationTime` yet for `simps`. This will be an easy fix.

**Comment by fpvandoorn** [comment]
Issue 1 is fixed by importing `import Mathlib.Algebra.Group.Defs` (which has `attribute [to_additive] Mul` that seems important). Does that solve the actual issue you had?
As far as I know the only issue with the interaction of `simp` and `to_additive` is #953.

3 is indeed not yet implemented.

**Comment by fpvandoorn** [comment]
#954 is a hacky solution for 3. Core Lean needs to add more information to the environment and/or we need to change the way attributes are implemented if we want a proper solution.

**Comment by winstonyin** [comment]
May I mention also that `deprecated` is not being transferred by `to_additive` as well

**Comment by kbuzzard** [comment]
`nolint` is not being transferred either.
